US05892098
1c) 3-(carbomethoxyethynyl)-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one
3-(3Cyclopentyloxy-4-methoxyphenyl)-3-ethynylcyclohexan-1-one (0.30 g, 0.98 mmol) was dissolved in dry methanol (20 mL) and carbon monoxide was bubbled into the solution for 10 min. A mixture of copper (II) chloride (0.264 g, 1.96 mmol) and sodium acetate trihydrate (0.267 g, 1.96 mmol) was added, then trace palladium (II) chloride was added. After 2.5 h at room temperature, water was added and the methanol was evaporated The aqueous residue was extracted three times with ether, the combined extract was washed with brine, was dried (magnesium sulfate) and was evaporated. Purification by flash chromatography, eluting with 2:1 hexanes/ethyl acetate, provided a pale yellow oil. 1H NMR(400 MHz, CDCl3) δ7.0 (d, J=2.3Hz, 1H), 6.95 (dd, J=8.4, 2.3Hz, 1H), 6.84 (d, J=8.4Hz, 1H), 4.78 (m, 1H), 3.84 (s, 3H), 3.76 (s, 3H), 2.82 (d, J=25Hz, 1H), 2.78 (d, J=25Hz, 1H), 2.5-2.1 (m, 5H), 2.0-1.8 (m, 7H), 1.61 (m, 2H).

reactant | 3-(3Cyclopentyloxy-4-methoxyphenyl)-3-ethynylcyclohexan-1-one | 0.98 mmol, 0.30 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CC(CCC1)=O)C#C | C20H24O3
reactant | sodium acetate trihydrate | 1.96 mmol, 0.267 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
reactant | methanol | 20 mL | CO | CH4O
catalyst | copper (II) chloride | 1.96 mmol, 0.264 g | [Cu](Cl)Cl
catalyst | palladium (II) chloride | [Pd](Cl)Cl
product | 3-(carbomethoxyethynyl)-3-(3-cyclopentyloxy-4-methoxyphenyl)cyclohexan-1-one | C(=O)(OC)C#CC1(CC(CCC1)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C22H26O5
